US07259183B2
Preparation of (4-tert-butyl-3-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 4-tert-butyl-3-chloro-benzaldehyde (68 mg, 0.35 mmol), 2-(3-trifluoromethyl-phenyl)-ethylamine (65 mg, 0.35 mmol) and sodium borohydride (20 mg, 0.52 mmol). The desired product (123 mg, 96%) was isolated without further purification as a colorless oil. MS (ISP) 370.1 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-tert-butyl-3-chloro-benzaldehyde | 0.35 mmol, 68 mg | C(C)(C)(C)C1=C(C=C(C=O)C=C1)Cl | C11H13ClO
reactant | 2-(3-trifluoromethyl-phenyl)-ethylamine | 0.35 mmol, 65 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 0.52 mmol, 20 mg | [BH4-].[Na+]
product | (4-tert-butyl-3-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | 123 mg, 96% | C(C)(C)(C)C1=C(C=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1)Cl | C20H23ClF3N
